US06548671B2
Acetic acid 1-{2-(3-fluoro-phenyl)-1-[(quinoxaline-2-carbonyl)-amino]-ethyl}-6-hvdroxy-3-(1H-imidazol-2-yl)-6-methyl-heptyl ester
To a solution of acetic acid 3-(2,2-dimethoxy-ethylcarbamoyl)-1-{2-(3-fluoro-phenyl)-1-[(quinoxaline-2-carbonyl)-amino]-ethyl}-6-hydroxy-6-methyl-heptyl ester (150 mg, 0.245 mmol) in acetic acid (2 mL) was added ammonium acetate (1.5 g 19.5 mmol). The resulting mixture was heated to 115° C. for 3 hours, cooled to ambient temperature and diluted with ethyl acetate. The solution was then neutralized with saturated aqueous sodium bicarbonate. The organic layer was dried over sodium sulfate, filtered and concentrated. Chromatography on silica gel gave the title compound (22.5 mg, 17%).

reactant | acetic acid 3-(2,2-dimethoxy-ethylcarbamoyl)-1-{2-(3-fluoro-phenyl)-1-[(quinoxaline-2-carbonyl)-amino]-ethyl}-6-hydroxy-6-methyl-heptyl ester | 0.245 mmol, 150 mg | COC(CNC(=O)C(CC(C(CC1=CC(=CC=C1)F)NC(=O)C1=NC2=CC=CC=C2N=C1)OC(C)=O)CCC(C)(C)O)OC | C32H41FN4O7
reactant | ammonium acetate | 19.5 mmol, 1.5 g | C(C)(=O)[O-].[NH4+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Acetic acid 1-{2-(3-fluoro-phenyl)-1-[(quinoxaline-2-carbonyl)-amino]-ethyl}-6-hvdroxy-3-(1H-imidazol-2-yl)-6-methyl-heptyl ester | 22.5 mg, 17% | FC=1C=C(C=CC1)CC(NC(=O)C1=NC2=CC=CC=C2N=C1)C(CC(CCC(C)(C)O)C=1NC=CN1)OC(C)=O | C30H34FN5O4
